US08258144B2
2-(1-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-5-fluoropyrimidin-4-yl)piperidin-4-yl)acetamide
The titled compound was synthesized analogously as compound 1-(4-(4-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone, by using 2-(piperidin-4-yl)acetamide. MS 456.3 (M+H); UV 203.8, 269.8 nm.

reactant | 1-(4-(4-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | NCC1CCN(CC1)C1=NC(=NC=C1F)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C22H30FN7O
reactant | 2-(piperidin-4-yl)acetamide | N1CCC(CC1)CC(=O)N | C7H14N2O
product | 2-(1-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-5-fluoropyrimidin-4-yl)piperidin-4-yl)acetamide | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N1CCC(CC1)CC(=O)N)F | C23H30FN7O2
